US06420359B1
d) 2-Chloro-N-{2-(ethylarnino)-6-fluoro-3pyridinyl}-5-bromo-3-pyridinecarboxamide
To a cooled solution (4° C.) of 3-amino-2-(ethylamino)-6-fluoropyridine (31.0 g, 200 mmol) in MeCN (160 mL) was added solid NaHCO3 (50.4 g, 600 mmol). After 15 min, a solution of 5-bromo-2-chloro-3-pyridinecarbonyl chloride (1 equiv., 200 mmol) in MeCN (155 mL) was added. After 60 min at room temperature, the reaction mixture was poured into water (1.2 L) and stirred for 30 min. The resulting solid was filtered, dried under reduced pressure at 50° C. overnight. The title compound (73.7 g, 99% yield) was obtained as a black solid.

reactant | 3-amino-2-(ethylamino)-6-fluoropyridine | 200 mmol, 31.0 g | NC=1C(=NC(=CC1)F)NCC | C7H10FN3
reactant | NaHCO3 | 600 mmol, 50.4 g | C(=O)(O)[O-].[Na+]
reactant | 5-bromo-2-chloro-3-pyridinecarbonyl chloride | 200 mmol, 1 equiv. | BrC=1C=C(C(=NC1)Cl)C(=O)Cl | C6H2BrCl2NO
reactant | water | 1.2 L | O | H2O
solvent | MeCN | 160 mL | CC#N | C2H3N
solvent | MeCN | 155 mL | CC#N | C2H3N
product | 2-Chloro-N-{2-(ethylarnino)-6-fluoro-3pyridinyl}-5-bromo-3-pyridinecarboxamide | 73.7 g, 99% yield | ClC1=NC=C(C=C1C(=O)NC=1C(=NC(=CC1)F)NCC)Br | C13H11BrClFN4O
